US06639070B1
The reaction described in the scheme below is an example for the preparation of the compound I where, starting from 2-hydrazinoethanol and methyl chloroformate as acid derivative, firstly N-amino-N-methoxycarbonyl-2-hydrazinoethanol is prepared, which is cyclized in a subsequent reaction with formaldehyde to give tetrahydro-4-methoxycarbonyl-4H-1-oxa-3,4-diazine.

reactant | 2-hydrazinoethanol | N(N)CCO | C2H8N2O
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | formaldehyde | C=O | CH2O
product | tetrahydro-4-methoxycarbonyl-4H-1-oxa-3,4-diazine | COC(=O)N1NCOCC1 | C5H10N2O3
